US08440830B2
To a solution of 4-isopropylaniline (1.0 eq) in dichloromethane at 0° C., triethylamine (2.2 eq) was added and stirred for 15 min. Then, acetic anhydride (1.0 eq) in dichloromethane was added at 0° C., after addition the reaction was continued at room temperature for 5 hrs. Water was added and the organic layer was separated, dried over anhydrous Na2SO4, concentrated under reduced pressure to afford crude product, which, on purification by column chromatography afforded the desired N-(4-isopropylphenyl)acetamide. (Yield=95%)

reactant | 4-isopropylaniline | 1.0 eq | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
reactant | triethylamine | 2.2 eq | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 1.0 eq | C(C)(=O)OC(C)=O | C4H6O3
reactant | Water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-isopropylphenyl)acetamide | Yield=95% | C(C)(C)C1=CC=C(C=C1)NC(C)=O | C11H15NO
